US07915200B2
8. Preparation of 6-Amino-5-chloro-2-(4-chloro-2-fluorophenyl)pyrimidine-4-carboxylic acid ethyl ester (Compound 19)
A 1N solution of HCl in ethanol was generated by adding 0.565 mL of acetyl chloride dropwise to 12 mL of ethanol cooled in an ice bath. This solution was added to 200 mg of 6-amino-5-chloro-2-(4-chloro-2-fluorophenyl)-pyrimidine-4-carboxylic acid and the resulting solution was heated at 62° C. overnight. The reaction mixture was concentrated and the residue partitioned between ethyl acetate and water. The organic phase was dried and concentrated, and the product was purified by column chromatography (dichloromethane/ethyl acetate gradient). A second chromatography utilizing an amine-functionalized silica gel column (Biotage KP-NH) and an ethyl acetate/hexane gradient solvent system yielded the title compound (139 mg, 63.5% yield): mp 131-132° C.: 1H NMR (CDCl3): δ 7.97 (m, 1H), 7.2 (m, 2H), 5.63 (br s, 2H), 4.48 (q, 2H), 1.44 (t, 3H).

reactant | HCl | Cl | ClH
reactant | acetyl chloride | 0.565 mL | C(C)(=O)Cl | C2H3ClO
reactant | 6-amino-5-chloro-2-(4-chloro-2-fluorophenyl)-pyrimidine-4-carboxylic acid | 200 mg | NC1=C(C(=NC(=N1)C1=C(C=C(C=C1)Cl)F)C(=O)O)Cl | C11H6Cl2FN3O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 6-Amino-5-chloro-2-(4-chloro-2-fluorophenyl)pyrimidine-4-carboxylic acid ethyl ester | 139 mg, 63.5% yield | C(C)OC(=O)C1=NC(=NC(=C1Cl)N)C1=C(C=C(C=C1)Cl)F | C13H10Cl2FN3O2
